US09290451B2
f) 6-(3-Chloro-phenyl)-5-methyl-pyridine-2-carboxylic acid (1-methyl-1-oxazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-methyl-pyridine-2-carboxylic acid and α,α-dimethyl-2-oxazolemethanamine (CAN 1211519-76-4) as starting materials, MS (EI): 356.1 (M+H)+.

reactant | 6-(3-chloro-phenyl)-5-methyl-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C | C13H10ClNO2
reactant | α,α-dimethyl-2-oxazolemethanamine | CC(N)(C=1OC=CN1)C | C6H10N2O
product | 6-(3-Chloro-phenyl)-5-methyl-pyridine-2-carboxylic acid (1-methyl-1-oxazol-2-yl-ethyl)-amide | CC(C)(C=1OC=CN1)NC(=O)C1=NC(=C(C=C1)C)C1=CC(=CC=C1)Cl | C19H18ClN3O2
